US08420690B2
b) N-{1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-2-methyl-2-phenylpropyl}-5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxamide
To a heterogeneous mixture of 5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxylic acid (155 mg, 0.74 mmol), 2-(2-amino-3-methyl-3-phenylbutyl)-1H-isoindole-1,3(2H)-dione (200 mg, 0.65 mmol)[from Preparation 4] and PyBrOP (426 mg, 0.91 mmol) in CHCl3 (10 mL) at 25° C. was added diisopropylethyl amine (0.5 mL, 2.9 mmol) dropwise. After 16 h, the mixture was adsorbed onto silica and the mixture purified via column chromatography (silica, 35-50% EtOAc/Hex) affording the title compound (96 mg, 26%) as a white solid: LC-MS (ES) m/z=499 (M+H)+.

reactant | 5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxylic acid | 0.74 mmol, 155 mg | CN1N=CC=C1C1=CC(=CS1)C(=O)O | C9H8N2O2S
reactant | 2-(2-amino-3-methyl-3-phenylbutyl)-1H-isoindole-1,3(2H)-dione | 0.65 mmol, 200 mg | NC(CN1C(C2=CC=CC=C2C1=O)=O)C(C)(C1=CC=CC=C1)C | C19H20N2O2
reactant | PyBrOP | 0.91 mmol, 426 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | diisopropylethyl amine | 2.9 mmol, 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-2-methyl-2-phenylpropyl}-5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxamide | 96 mg, 26% | O=C1N(C(C2=CC=CC=C12)=O)CC(C(C)(C1=CC=CC=C1)C)NC(=O)C1=CSC(=C1)C1=CC=NN1C | C28H26N4O3S
